Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Motor vehicle crash, right knee pain
 
Major Surgical or Invasive Procedure:
None

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission physical Exam:
Constitutional: Comfortable
HEENT: forehead abrasion, EOMI, full visual fields
Oropharynx within normal limits, no midline tenderness
Chest: no chest wall tenderness or crepitus
Cardiovascular: irregular
Abdominal: Soft, Nontender, Nondistended
GU/Flank: low thoracic, high lumbar pain
Extr/Back: + pulses, pian to R knee with motion
Skin: abrasion as noted above
Neuro: Speech fluent, GCS 15, full strength
Psych: Normal mood, Normal mentation
___: No petechiae

Discharge Physical Exam:
VS: 98.3 PO 128 / 69 L Sitting 63 22 92 RA 
GEN: Alert, pleasant and interactive.
HEENT: PERRL, EOMI. mucus membranes pink/moist.
CV: Irregular
PULM: Clear to auscultation bilaterally
ABD: Soft, non-tender, non-distended. Obese. Active bowel 
sounds.
EXT: Warm and dry. 2+ ___ pulses. Right knee edema. 
NEURO: A&Ox3. Follows commands and moves all extremities. 
 
Pertinent Results:
___ 05:53AM BLOOD WBC-8.1 RBC-5.04 Hgb-15.2 Hct-46.7 MCV-93 
MCH-30.2 MCHC-32.5 RDW-15.9* RDWSD-53.7* Plt ___
___ 05:46AM BLOOD WBC-10.1* RBC-5.04 Hgb-15.3 Hct-46.4 
MCV-92 MCH-30.4 MCHC-33.0 RDW-15.9* RDWSD-53.3* Plt ___
___ 03:24PM BLOOD WBC-10.0 RBC-5.39 Hgb-15.9 Hct-49.0 
MCV-91 MCH-29.5 MCHC-32.4 RDW-15.9* RDWSD-52.1* Plt ___
___ 06:08AM BLOOD ___
___ 05:53AM BLOOD ___
___ 05:46AM BLOOD ___
___ 03:24PM BLOOD ___ PTT-37.5* ___
___ 05:53AM BLOOD Glucose-114* UreaN-19 Creat-0.8 Na-139 
K-4.5 Cl-103 HCO3-25 AnGap-11
___ 05:46AM BLOOD Glucose-106* UreaN-17 Creat-0.8 Na-141 
K-4.7 Cl-104 HCO3-27 AnGap-10
___ 05:53AM BLOOD Calcium-8.4 Phos-3.3 Mg-1.9
___ 05:46AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.0

___ CT RLE:
Large suprapatellar joint effusion with hemarthrosis without 
fatty component, could represent a traumatic or contusive 
hemarthrosis.  No definite fracture is identified.  Minimal 
irregularity of the lateral tibial plateau is seen, though there 
is no associated trabecular disruption nor full through and 
through extension to suggest a true fracture.  
Tricompartmental osteoarthritis, severe in the medial 
compartment. 

___ CXR:
In comparison with study of ___, there again is some 
enlargement of the cardiac silhouette in this patient with a 
single lead pacer, though the tip of the pacer is not well seen 
on the current study.  There is engorgement of indistinct 
pulmonary vessels, consistent with increasing pulmonary vascular 
congestion. 
No evidence of acute pneumonia or pneumothorax. 

___ R Knee Xray:
Large suprapatellar joint effusion, no fracture, 
tricompartmental 
osteoarthritis, moderate in severity. 

___ CT C-Spine:
No acute fracture or traumatic malalignment.

___ CT Chest/A/P:
1. No acute fracture or soft tissue injury. 
2. Severely enlarged prostate, measuring up to 8.4 cm. 
3. Ectatic/mildly aneurysmal aortoiliac dilatation, as detailed 
above. 
4. Subtle nodularity of the hepatic contour.  Recommend clinical 
correlation for evidence of cirrhosis. 

___ CT Head:
1. Allowing for motion artifact, no acute intracranial injury. 
2. Small right lateral forehead hematoma. 

 
Brief Hospital Course:
Mr. ___ is an ___ yo M with atrial fibriliation, pacemaker, on 
Coumadin, transferred from outside hospital after a motor 
vehicle crash with complaints of right knee and back pain. CT 
scan of head, neck, abdomen, pelvis negative for acute injury. 
Xray of right lower extremity negative for fracture. Orthopedics 
consulted and CT scan done to further evaluate right lower 
extremity. No acute fracture seen; large suprapatellar joint 
effusion with hemarthrosis. An unlocked ___ brace and full 
weight bearing was recommended with outpatient follow up. The 
patient was admitted for further treatment of right knee pain. 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with a IV dilaudid 
and then transitioned to oral oxycodone and Tylenol once 
tolerating a diet. 
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. The patient 
was monitored on continuous telemetry. Coumadin was continued 
and dosed per INR level with goal INR of ___.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was given a regular diet, which was well 
tolerated. Patient's intake and output were closely monitored
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating with assistance, voiding without assistance, and pain 
was well controlled.  The patient received discharge teaching 
and follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Coumadin
Flomax .4mg
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID 
hold for diarrhea.  
3.  Milk of Magnesia 30 mL PO Q6H:PRN constipation  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
take lowest effective dose.  
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
6.  Senna 8.6 mg PO BID:PRN constipation  
7.  Tamsulosin 0.4 mg PO QHS  
8.  ___  MD to order daily dose PO DAILY16 
titrate to goal INR.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right Knee effusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery service on ___ 
after a motor vehicle crash sustaining an injury to your right 
knee. You had xrays and a CT scan that showed to acute fracture. 
You were seen by the orthopedic surgery team and diagnosed with 
an effusion. You were fitted with a specialized brace to support 
your knee. You can continue to put weight on your knee with the 
brace as tolerated.

You were seen and evaluated by the physical therapy team who 
recommended discharge to rehab to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___